Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per HPI by admitting MD: 

HPI: The patient is a ___ y/o M with PMHx of recent
nephrolithiasis s/p stent & removal ~3 weeks ago, cholelithiasis
s/p cholecystectomy ___ years ago, prostate cancer s/p
prostatectomy and XRT/hormonal therapy in ___, who presented
with sudden onset upper abdominal pain last night.

The patient reports that he was in his USOH until yesterday
evening. After dinner, around 10 pm, he developed sudden onset
abdominal pain across the upper abdomen at the lower end of his
rib cage. He has some nausea but no vomiting. Denies diarrhea.
Denies fevers, chills. He reports that the pain is very similar
to the pain he had prior to having his gallbladder removed. 

He reports that his pain persisted until he was given morphine
and Zofran in the ED. Following that, pain has improved and not
recurred.

Initial ED Exam:
Very uncomfortable, leaning forward and dry heaving in bucket
Tachycardic
CTA bilaterally, no wheezing
Abdomen soft, mild tenderness over RUQ and epigastric area, no
rebound or guarding
No CVAT
Skin warm and dry

ED Course:
Initial VS: 96.5 98 128/72 24 99% RA Pain ___
Labs significant for CBC WNL. Lactate 7.0->1.5. HCO3 16->24. 
Phos
1.0. AST/ALT 178/66->320/249.
Imaging: CXR, CTA (see below)
Meds given:
___ 23:27 IV Morphine Sulfate 4 mg  
___ 23:27 IV Ondansetron 4 mg   
___ 23:27 IVF  LR 1000 mL 
___ 00:52 IV Piperacillin-Tazobactam 4.5 g 
___ 00:57 IVF  NS 1000 mL
___ 01:33 IV Vancomycin 1000 mg 
___ 09:25 PO/NG Neutra-Phos 2 PKT 

VS prior to transfer: 98.2 67 106/66 18 97% RA 
 

On arrival to the floor, the patient reports that his pain
remains completely resolved. He ate some crackers in the ED
without any nausea or pain. He confirms the above history and
denies any other new complaints.

ROS: As above. Denies headache, lightheadedness, dizziness,
recent cold/flu symptoms, chest pain, heart palpitations,
shortness of breath, cough, vomiting, diarrhea, constipation,
urinary symptoms, muscle or joint pains, focal numbness or
tingling, skin rash. The remainder of the ROS was negative.

 
Past Medical History:
Cholelithiasis s/p cholecystectomy ___
Nephrolithiasis s/p stent, now removed ___
Prostate cancer s/p XRT/hormonal therapy and resection ___

 
Social History:
___
Family History:
Denies any FHX of gallbladder, liver, or stomach problems.

 
Physical Exam:
Admission physical exam
VS - ___ 1352 Temp: 98.1 PO BP: 108/67 HR: 59 RR: 18 O2 
sat:
95% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GEN - Alert, NAD
HEENT - NC/AT, MMM, no scleral icterus
NECK - Supple, no cervical or supraclavicular LAD
CV - Quiet heart sounds, RRR, no m/r/g appreciated
RESP - CTA B, breathing appears comfortable
BACK - no CVAT
ABD - Soft, NT, ND, no HSM appreciated
EXT - No ___ edema or calf tenderness
SKIN - No apparent rashes, no jaundice
NEURO - Moving all extremities equally and with purpose, no
asterixis noted, Ox3, able to months of the years backward
PSYCH - Calm, appropriate

Discharge physical exam
T98.0, BP 109/67, HR 54, RR 16, 99 Ra 
General - well appearing, resting comfortably in bed
HEENT - moist oral mucosa, no OP lesions
___ - rrr, s1/2, no murmurs
Lungs - cta b/l, no w/r/r
GI - soft, non tender, non distended, +bowel sounds, no 
rebound/guarding/rigidity, negative ___ sign
Ext - no edema or cyanosis
Skin - warm, dry no rashes
Psych - calm and cooperative 

 
Pertinent Results:
Labs on admission 
WBC 7.3, Hg 14.4, Hct 42.5, Plt 212
Na 142, K 4.0, Cl 101, Co2 16, BUN/Cr ___, Glu 143
ALT 66, AST 178, ALP 109, T bili 0.8
LFTs later repeated: AST 249, AST 320, ALP 130, T bili 0.5
Lactate 7.0 -> 6.1 -> 1.5
Hepatitis serology - negative, hep B non immune 

Labs on discharge 
WBC 2.9, Hg 13.0, Hct 40.9, Plt 181 
Na 147, K 4.3, Cl 108, Co2 26, BUN/Cr ___, Glu 79
ALT 166, AST 100, ALP 115, T bili 0.6

Blood cultures negative to date

Imaging
CXR ___
No acute cardiopulmonary process.  No imaging evidence to 
suggest free 
intraperitoneal air. 

CT A/P ___
1. No acute findings in the abdomen or pelvis to account for 
patient's 
symptoms. 
2. Mild fullness of the right renal collecting system and ureter 
without 
evidence of an obstructing stone or mass. 

MRCP ___
No evidence of acute process in the abdomen.  Specifically, no 
biliary ductal dilatation or choledocholithiasis. 

 
Brief Hospital Course:
___ y/o M with PMHx of recent nephrolithiasis s/p stent & removal 
~3 weeks ago, cholelithiasis s/p cholecystectomy ___ years ago, 
prostate cancer s/p prostatectomy
and XRT/hormonal therapy in ___, who presented with sudden 
onset upper abdominal, now resolved. Also found to have lactic 
acidosis, which improved with fluids, and transaminitis.

# ABDOMINAL PAIN: 
# TRANSAMINITIS
Most likely with a passed gallstone. MRCP did not show a 
gallstone and symptoms resolved. LFTs remain slightly elevated 
but downtrending. He was able to tolerate a PO diet without any 
issues. Viral illness could be a consideration but unlikely. 
Hepatitis serology is negative. Notably he is not hep B immune 
and will need vaccination series as an outpatient. 

# TRANSAMINITIS: Likely related to passed gallstone. MRCP w/o 
obstruction/choledocholithasis but clinically his symptoms fit 
with a passed stone. He will need LFTs repeated within a week. 

# LACTIC ACIDOSIS: Unclear why lactate was so high when patient 
presented, but attributed to acute pain and possibly 
hypovolemia. Lactate normalized with fluids. CT/MRI did not show 
any ischemia to suggest lactic acidosis. Metabolic acidosis also 
normalized once lactate cleared. 

# HYPERNATREMIA
Na 147 on the day of discharge, attributed to IV fluids. Can be 
repeated within 1 week with other labs. 

# LEUKOPENIA
Also with down-trend of all cell lines on CBC. IV fluids running 
during the time of lab draw. Attribute leukopenia (wbc 2.9) to 
dilution rather than infection or acute process. Suggest repeat 
within 1 week, patient informed of the need to repeat CBC as 
well as chemistry, as he already has lab draw scheduled for next 
week regarding renal function (hx nephrolithiasis). 

# NEPHROLITHIASIS: S/p recent stent. Pt reports that current 
pain is not consistent with prior nephrolithiasis pain. CT scan 
did not show any evidence of nephrolithiasis. No CVAT on exam. 

# PCP: ___ (___, 
___, discharge paperwork faxed to PCP given out of 
network

# CODE STATUS: Presumed full
# DISPOSITION: discharge home today given clinical improvement
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate Dose is Unknown  PO DAILY 
2. Multivitamins Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO DAILY  
2.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gallstone (passed) 
Transaminitis 
Leukopenia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital with abdominal pain that we 
attribute to a passed gallstone. You had an MRI of the abdomen 
that did not show any obstructing gallstones. Your liver enzymes 
were elevated on admission and have started to trend down, but 
remain slightly elevated. Please have a set of liver enzymes 
checked within the week. When you have this done, you should 
also have a sodium level and a complete blood count checked, as 
you had slightly abnormal lab work that is attributed to 
receiving IV fluids. 

If you experience significant abdominal pain again, this may be 
a sign that you have another gallstone, and you should call your 
PCP or return to the ED. 

Please talk to your PCP about initiating hepatitis B 
vaccination, as you are not immune to hepatitis B.

It has been a pleasure to care for you. We wish you the very 
best!

Sincerely, 
Your care team at ___ 
 
Followup Instructions:
___